US07465726B2
tert-Butyl 4-[4-(3-iodo-4-methoxyphenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate
3-Iodo-4-methoxyaniline (0.670 g, 2.0 mmol) was added to a solution of tert-butyl 4-(chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylate (0.598 g, 2.4 mmol) in n-butanol (10 mL). The mixture was heated to 95° C. for 15 h. The solvent was removed and the residue was purified by silica gel chromatography (5% MeOH in dichloromethane) to afford the title compound. 1H-NMR (DMSO-d6, 400 MHz): δ=1.43 (s, 9H), 2.46 (m, 2H), 3.56 (m, 2H), 3.80 (s, 3H), 4.03 (m, 2H), 6.38 (s, 1H), 6.72 (s, 1H), 7.00 (d, J=9.2 Hz, 1H), 7.85 (dd, J=2.8, 8.8 Hz, 1H), 8.34 (s, 1H), 9.27 (s, 1H), 11.93 (s, 1H). MS (ES+): m/z 547.91 [MH+]. HPLC: tR=3.39 min (ZQ2000, polar—5 min).

reactant | 3-Iodo-4-methoxyaniline | 2.0 mmol, 0.670 g | IC=1C=C(N)C=CC1OC | C7H8INO
reactant | tert-butyl 4-(chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylate | 2.4 mmol, 0.598 g | ClC=1N=CC2=C(N1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C16H19ClN4O2
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
product | tert-Butyl 4-[4-(3-iodo-4-methoxyphenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate | IC=1C=C(C=CC1OC)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C23H26IN5O3
